US08202863B2
To a solution of 2-phenyl-pyrimidine-5-carboxylic acid chloride (1.51 mmol) and 2-amino-ethanesulfonic acid amide (1.51 mmol) in DCM (15 mL) is added diisopropylethylamine (4.53 mmol). The mixture is stirred at room temperature overnight. The mixture is concentrated in vacuo. The residue is washed with water and DCM to afford 2-phenyl-pyrimidine-5-carboxylic acid (2-sulfamoyl-ethyl)-amide as a solid. MS: 307 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 3.25 (q, 2H), 3.67 (m, 2H), 6.93 (s, N—H), 7.47-7.60 (m, 3H), 8.36-8.48 (m, 2H), 8.92-9.15 (m, N—H), 9.16-9.36 (m, 2H); IC50=55 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid chloride | 1.51 mmol | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)Cl | C11H7ClN2O
reactant | 2-amino-ethanesulfonic acid amide | 1.51 mmol | NCCS(=O)(=O)N | C2H8N2O2S
reactant | diisopropylethylamine | 4.53 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-pyrimidine-5-carboxylic acid (2-sulfamoyl-ethyl)-amide | S(N)(=O)(=O)CCNC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C13H14N4O3S
